US06605629B1
3-[4-(4-Chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl methanesulfonate (400 mg), diethyl 4-hydroxybenzylphosphonate (365 mg), potassium carbonate (276 mg) and N,N-dimethylformamide (10 ml) was stirred at 100° C. for 4 hours. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate (100 ml×2). The organic layer was dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography, and diethyl 4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]benzylphosphonate was obtained as a yellow oil (526 mg, 97%) from an ethyl acetate-eluted fraction.

reactant | 3-[4-(4-Chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyl methanesulfonate | 400 mg | CS(=O)(=O)OCCCC1=C(N=C(O1)N1C(=NC=C1)C)C1=CC=C(C=C1)Cl | C17H18ClN3O4S
reactant | diethyl 4-hydroxybenzylphosphonate | 365 mg | OC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C11H17O4P
reactant | potassium carbonate | 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | diethyl 4-[3-[4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolyl]propyloxy]benzylphosphonate | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC1=CC=C(CP(OCC)(OCC)=O)C=C1)N1C(=NC=C1)C | C27H31ClN3O5P
